US05104888
6-Acetoxy-2-isobutyl-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one
A mixture of 1.5 g of 6-hydroxy-2-isobutyl-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one (prepared as described in Preparation 6) and 30 ml of pyridine was mixed with 3 g of acetic anhydride and stirred for 35 hours at room temperature. The reaction mixture was then condensed by evaporation under reduced pressure, mixed with water and extracted with ethyl acetate and benzene. The extract was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography, using a 5:1 by volume mixture of hexane and ethyl acetate, to give the title compound.

reactant | 6-hydroxy-2-isobutyl-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one | 1.5 g | OC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])CC(C)C)=O)C | C23H27NO6
reactant | acetic anhydride | 3 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 6-Acetoxy-2-isobutyl-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])CC(C)C)=O)C | C25H29NO7
